US07906517B2
To ethanol (30 ml) are added 2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzaldehyde (6.8 g), hydroxylamine hydrochloride (1.66 g) and sodium acetate (1.95 g) and the mixture is stirred at room temperature overnight. Ethanol is removed by evaporating under reduced pressure and thereto is added chloroform and water, and the mixture is separated. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=10:1→2:1) to give 2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzaldehyde oxime (5.78 g). MS (m/z): 301 [M+H]+

reactant | 2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzaldehyde | 6.8 g | C1(CC1)CN(C1=C(C=O)C=C(C=C1)C(F)(F)F)CCC | C15H18F3NO
reactant | hydroxylamine hydrochloride | 1.66 g | Cl.NO
reactant | sodium acetate | 1.95 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzaldehyde oxime | 5.78 g | C1(CC1)CN(C1=C(C=NO)C=C(C=C1)C(F)(F)F)CCC | C15H19F3N2O
